US06872840B1
Synthesis of 2,3-dimethylene-1-phenyl-9-oxa-bicyclo[3.3.1]nonane
1.50 mL of diethyl ether was added to 5-hydroxy-1-phenyl-7-trimethylsilanylmethyl-nona-7,8-diene-2-one (117 mg, 0.37 mmol) under nitrogen atmosphere. While stirring at −78° C., trimethylsilyl trifluoromethanesulfonate (TMSOTf; 67 μL, 0.37 mmol) was added. While stirring the reaction mixture, the reaction temperature was slowly increased to room temperature for 3 hours. The reaction mixture was stirred at room temperature for 30 minutes. After the reaction was completed, H2O was added. After stirring for about 5 minutes, the reaction mixture was diluted with ethyl acetate (EtOAc) and washed with water and saturated brine. The organic layer was separated from the reaction mixture and dried with anhydrous magnesium sulfate (MgSO4). The solvent was removed under reduced pressure and the remaining material was purified with column chromatography (EtOAc/n-hexane={fraction (1/7)}) to obtain 82 mg of the product (98%). 1H NMR(300 MHz, CDCl3) δ 7.43 (d, 2H, J=1.5 Hz), 7.21 (m, 3H), 5.17 (s, 1H), 5.07 (s, 1H), 4.72 (s, 1H), 4.33 (s, 1H), 4.13 (s, 1H), 3.00 (m, 1H), 2.40 (d, 1H, J=14.8 Hz), 2.19 (m, 2H), 1.94 (m, 2H), 1.60 (m, 2H); 13C NMR (75 MHz, CDCl3) δ 152.5, 147.0, 146.0, 128.2, 127.4, 126.4, 111.7, 109.4, 77.7, 69.5, 38.7, 36.7, 30.6, 17.8 ppm.

reactant | diethyl ether | 1.50 mL | C(C)OCC | C4H10O
reactant | 5-hydroxy-1-phenyl-7-trimethylsilanylmethyl-nona-7,8-diene-2-one | 0.37 mmol, 117 mg | OC(CCC(CC1=CC=CC=C1)=O)CC(=C=C)C[Si](C)(C)C | C19H28O2Si
reactant | trimethylsilyl trifluoromethanesulfonate | 0.37 mmol, 67 μL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | H2O | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,3-dimethylene-1-phenyl-9-oxa-bicyclo[3.3.1]nonane | 82 mg, 98% | C=C1C2(CCCC(CC1=C)O2)C2=CC=CC=C2 | C16H18O
